US07572809B2
Similar procedure as described in example 9B was used, starting from 3-Chloro-2-cyanomethyl-4,5-dimethoxy-benzoic acid, 3-amino-5-methylpyrazol and acetic acid to give 5-Chloro-6,7-dimethoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ol. LC-MS: m/e 335 (MH+).

reactant | 3-Chloro-2-cyanomethyl-4,5-dimethoxy-benzoic acid | ClC=1C(=C(C(=O)O)C=C(C1OC)OC)CC#N | C11H10ClNO4
reactant | 3-amino-5-methylpyrazol | NC1=NNC(=C1)C | C4H7N3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-Chloro-6,7-dimethoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ol | ClC1=C2C=C(N=C(C2=CC(=C1OC)OC)O)NC1=NNC(=C1)C | C15H15ClN4O3
